US06867211B2
5-(4-Fluorophenyl)-7-methyl-6-(4-pyridyl)-2,3-dihydro-1H-pyrrolizine
[3-(4-Fluorophenyl)-2-(4-pyridyl)-6,7-dihydro-5H-pyrrolizin-1-yl]methanol (3.08 g, 10 mmol) is heated with hydriodic acid (57%, 18 ml, 134 mmol HI) in an oil bath at 120° C. (reflux). The initially undissolved substance has dispersed in the batch after 45 min, and starting material (rf=0.05) is no longer detectable (product rf=0.9, iodide rf=0.6) by tlc (ether, Al2O3). After cooling (1 h), the solution is diluted with 50 ml of water and covered with a layer of 100 ml of ethyl acetate. The water phase is carefully neutralized with sat. Na2CO3 soln (30 ml) and the phases are separated. The water phase again extracted with ethyl acetate (50 ml), the combined ethyl acetate extracts decolorized using sodium thiosulfate solution (Na2S2O3, 2% strength, 40 ml) and, after washing again with water (50 ml), dried over Na2SO4 sicc. After evaporating the solvent in vacuo, 2.28 g of residue remain, which solidifies from CH2Cl2/ethyl acetate to give a resinous mass. The substance is purified by CC (Al2O3/ether) and the substance obtained from the fractions by evaporating the solvent (fractions 1-17, 1.74 g) is crystallized from diisopropyl ether. 1.37 g of pure compound are obtained.

reactant | [3-(4-Fluorophenyl)-2-(4-pyridyl)-6,7-dihydro-5H-pyrrolizin-1-yl]methanol | 10 mmol, 3.08 g | FC1=CC=C(C=C1)C1=C(C(=C2CCCN12)CO)C1=CC=NC=C1 | C19H17FN2O
reactant | hydriodic acid | 134 mmol, 18 ml | I | HI
reactant | iodide | [I-]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 5-(4-Fluorophenyl)-7-methyl-6-(4-pyridyl)-2,3-dihydro-1H-pyrrolizine | 1.37 g, Yield: 47% | FC1=CC=C(C=C1)C=1N2CCCC2=C(C1C1=CC=NC=C1)C | C19H17FN2
